US07598286B2
Step A: (3-{[tert-butyl(diphenyl)silyl]oxy}phenyl)[2-(3-methoxyphenyl)-2H-indazol-3-yl]methanone
To solution of (3-{[tert-butyl(diphenyl)silyl]oxy}phenyl)(1H-indazol-3-yl)methanone (0.10 g, 0.21 mmol)) in dry CH2Cl2 (4 mL) in a flame-dried flask was added dry pyridine (0.034 mL), anhydrous copper (II) acetate (0.057 g, 0.32 mmol), 3-methoxyphenylboronic acid (0.064 g, 0.42 mmol) and powdered 4 Angstrom molecular sieves (0.25 g). Stir at room temperature for seven days.

reactant | (3-{[tert-butyl(diphenyl)silyl]oxy}phenyl)(1H-indazol-3-yl)methanone | 0.21 mmol, 0.10 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)C(=O)C1=NNC2=CC=CC=C12 | C30H28N2O2Si
reactant | pyridine | 0.034 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-methoxyphenylboronic acid | 0.42 mmol, 0.064 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 0.32 mmol, 0.057 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (3-{[tert-butyl(diphenyl)silyl]oxy}phenyl)[2-(3-methoxyphenyl)-2H-indazol-3-yl]methanone | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)C(=O)C=1N(N=C2C=CC=CC12)C1=CC(=CC=C1)OC | C37H34N2O3Si
